US04673746
A solution of 5-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole (14.8 g) in DMF (40 ml) is added dropwise at room temperature to a suspension of sodium hydride (3.0 g) in DMF (40 ml) and the mixture is stirred at room temperature for one half hour. A solution of ethyl bromoacetate (10.31 g) in DMF (40 ml) is then added dropwise and the mixture stirred 18 hours at room temperature. An additional 0.3 g of NaH suspended in DMF is added, followed by 1 g of ethyl bromoacetate. The mixture is warmed to 50° C. for 1 and one half hours, cooled and poured over ice/water and extracted with ether. The ether extracts are washed with water, saturated sodium chloride, dried over sodium sulfate and the solvent is removed to give a solid. Trituration with ether-petroleum ether (1:1) gives ethyl{[5-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, mp 114°-115° C.

reactant | 5-chloro-3-(2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | 14.8 g | ClC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)O | C13H7ClFNO2
reactant | sodium hydride | 3.0 g | [H-].[Na+]
reactant | ethyl bromoacetate | 10.31 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaH | 0.3 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | ethyl{[5-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | C(C)OC(COC1=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1Cl)=O | C17H13ClFNO4
